US06689530B2
In 200 g of ethanol were dissolved 86.5 g (0.5 mol) of 4-bromophenol and 22 g (0.55 mol) of sodium hydroxide. To the solution at 70° C., 121.8 g (0.55 mol) of n-decyl bromide was added dropwise. The solution was allowed to ripen for 4 hours and cooled to room temperature, after which 120 g of water was added. The oily matter was separated therefrom and concentrated by a rotary evaporator, followed by vacuum distillation (boiling point 143-145° C./0.5 Torr), yielding 90 g of 4-n-decyloxyphenyl bromide.

reactant | 4-bromophenol | 0.5 mol, 86.5 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | sodium hydroxide | 0.55 mol, 22 g | [OH-].[Na+]
reactant | n-decyl bromide | 0.55 mol, 121.8 g | C(CCCCCCCCC)Br | C10H21Br
reactant | water | 120 g | O | H2O
solvent | ethanol | 200 g | C(C)O | C2H6O
product | 4-n-decyloxyphenyl bromide | 90 g | C(CCCCCCCCC)OC1=CC=C(C=C1)Br | C16H25BrO
